US04062844
2-(4-Benzoylpiperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline
Under anhydrous conditions, a solution of 5.43 g. (0.03 mole) of phenylmagnesium bromide in 100 ml. of tetrahydrofuran is swept with dry nitrogen and a solution of 3.15 g. (0.01 mole) of 2-(4-cyanopiperazin-1-yl)-4-amino 6,7-dimethoxyquinazoline in 75 ml. of the same solvent is added dropwise over 30 minutes at room temperature. When the addition is complete, the reaction mixture is heated at 65° C. for 6 hours, then allowed to stand at room temperature overnight. To the reaction mixture is then added 25 ml. of 2N hydrochloric acid and stirring is continued for an additional 30 minutes. The reaction mixture is then made alkaline with sodium hydroxide solution and the organic layer separated. The aqueous layer is extracted with 2 × 100 ml. of tetrahydrofuran and the combined organic layers are dried over anhydrous magnesium sulfate and evaporated to dryness to obtain the crude title compound which can be further purified by crystallization from ethanol or by column chromatography on silica gel.

reactant | phenylmagnesium bromide | 0.03 mole | C1(=CC=CC=C1)[Mg]Br
reactant | 2-(4-cyanopiperazin-1-yl)-4-amino 6,7-dimethoxyquinazoline | 0.01 mole | C(#N)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C15H18N6O2
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(4-Benzoylpiperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C21H23N5O3
